Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Monistat 3 / adhesive tape
 
Attending: ___.
 
Chief Complaint:
throat itchiness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a pleasant ___ w/ CLL/SLL who presented to clinic
today where she received C1D2 Fludarabine, Cyclophosphamide. In
addition, she received her first dose of Rituxan, premedicated
with dex, benadryl, apap. She developed scratchy throat and
pruritic ears at the 250 mg/hr rate, and received 50 IV 
hydrocort
and 20 IV pepcid with resolution of her symptoms. Infusion rate
reduced to 200 mg/hr and completed at near rate of 300 mg/hr w/o
incident. When she left clinic went to the parking lot, she
developed an itchy throat and returned to clinic. Sx spread to
lips and gums without swelling or difficulty breathing and sx
seemed to wax and wane. She received 25 mg IV and 25 mg PO
benadryl and 50 mg hydrocort wit minimal improvement. Tmax 99.2F
and this was expected with her first Rituxan infusion. She was
admitted for obs. On arrival to ___, she noted her symptoms have
significantly improved. Never had any swelling or rashes, no
dyspnea or wheezing. Otherwise feels well. Her face is flushed
but she states that is improving from this am when she received
the dex, prior to rituxan. 

REVIEW OF SYSTEMS:
10 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
Patient reports a 20# weight loss ___, which she attributes to compliance with a
weight watchers program. She notes that she had been suffering
from increased stiffness diffusely prior to the weight loss but
that has since improved. Patient notes some vague issues with
memory and trouble finding words. Denies recent increase in
infections. No fevers, chills, sweats, nausea, emesis. No other
complaints. Peripheral flow cytometry demonstrates CLL with
deletion 13 and IGVH mutation.

ONCOLOGIC TREATMENT HISTORY:
Irbrutinib- ___
Cycle 1- FCR- ___

PAST MEDICAL HISTORY (per OMR):
- Umbilical hernia 
- Right inguinal hernia
- Hypothyroidism
- 2X C-section
- depression

 
Social History:
___
Family History:
Mother alive sp breast cancer and a cardiac valve repair.
Father's medical history is unknown. On healthy brother

 
Physical ___:
VITAL SIGNS: Vital Signs sheet entries for ___: 
BP: 116/75. Heart Rate: 79. O2 Saturation%: 97. Weight: 175.9
(With Clothes). Height: 61.5. BMI: 32.7. Temperature: 98.3. 
Resp.
Rate: 18. Pain Score: 0. Distress Score: 0.
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions, no edema, + facial and neck 
flushing,
mallampati class II
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on trunk nor extremities
NEURO: Speech clear, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: LUE PIV

 
Pertinent Results:
___ 07:26AM BLOOD WBC-40.0* RBC-3.59* Hgb-10.6* Hct-33.7* 
MCV-94 MCH-29.5 MCHC-31.5* RDW-14.8 RDWSD-51.0* Plt ___
___ 09:00AM BLOOD Neuts-10* Lymphs-89* Monos-1* Eos-0* 
Baso-0 AbsNeut-6.80* AbsLymp-60.52* AbsMono-0.68 AbsEos-0.00* 
AbsBaso-0.00*
___ 07:26AM BLOOD Glucose-90 UreaN-18 Creat-0.7 Na-146 
K-4.3 Cl-108 HCO3-22 AnGap-16
___ 09:00AM BLOOD ALT-8 AST-10 LD(LDH)-164 AlkPhos-62 
TotBili-0.5
___ 07:26AM BLOOD Calcium-9.1 Phos-3.9 Mg-2.0 UricAcd-3.___ w/ CLL/SLL on C1D2 Fludarabine and cyclophosphamide, who 
developed throat/ear pruritis after her first Rituxan infusion 
today, with persistent symptoms despite premeds. Now admitted 
for close observation. She is now back to her baseline.

# Rituxan Reaction
___ BMT NP ___, current sx typical for Rituxan rxn with her 
level of WBC. Sx most c/w grade 2 acute infusion reaction rather 
than an allergic or hypersensitivity reaction as she did not 
develop any urticaria, wheezing, angioedema, nor derangements in 
VS (albeit low grade temp of 99).  She improved with supportive 
care after 24 hrs

# CLL/SLL
She is due for C1D3 Fludarabine and Cyclophosphamide on ___.
- Reviewed with Dr. ___

# Depression: cont fluoxetine
# Hypothyroid: cont synthroid

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Cetirizine 10 mg PO DAILY 
3. FLUoxetine 10 mg PO DAILY 
4. ibrutinib 420 mg oral DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. LORazepam 0.5 mg PO QHS:PRN insomnia 
7. metroNIDAZOLE 0.75 % topical BID:PRN 
8. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Cetirizine 10 mg PO DAILY  
3.  FLUoxetine 10 mg PO DAILY  
4.  ibrutinib 420 mg oral DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  LORazepam 0.5 mg PO QHS:PRN insomnia  
7.  metroNIDAZOLE 0.75 % topical BID:PRN  
8.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CLL/SLL
Medication reaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for observation after a reaction to your 
Rituxan.  You have improved and are being discharged to your 
next treatment.  Please follow up with Dr. ___ ongoing 
care.
 
Followup Instructions:
___